US07109186B2
Compound 37-A: N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide
To a suspension of (2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid, Compound III-A, (4.5 g, 26.2 mmol) in benzene (30 mL) was added oxalyl chloride (15 mL) and the resulting mixture was heated at reflux for 1 h. The mixture was cooled to room temp. and concentrated. The residue was dissolved in methylene chloride (30 mL) and cooled to 0° C. To this was added a suspension of (3,4-dichloro-benzyl)-methyl-amine hydrochloride salt (5.0 g, 22.1 mmol) in methylene chloride (30 mL) and pyridine (18 mL). The resulting mixture was stirred at room temp for 18 h then diluted with 1N HCl. The aqueous phase was saturated with sodium chloride and extracted with methylene chloride (3 times). The organic layers were combined, dried (Na2SO4), and concentrated. The brown oil was purified over silica gel eluting with ethyl acetate/hexane (1:1) to give the title compound as a pale yellow oil that solidified to a white solid upon standing (6.2 g, 82% yield). 1H NMR (300 MHz, DMSO) δ: 7.44–7.10 (m, 3H), 6.16 (s, 0.66H), 6.08 (s, 0.33H), 4.59 (s, 1.33H), 4.53 (s, 0.67H), 3.02 (s, 2H), 2.97 (s, 1H), 1.74 (s, 4H), 1.69 (s, 2H).

reactant | (2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-acetic acid | CC1(OC(C(O1)=CC(=O)O)=O)C | C7H8O5
reactant | oxalyl chloride | 15 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3,4-dichloro-benzyl)-methyl-amine hydrochloride salt | 22.1 mmol, 5.0 g | Cl.ClC=1C=C(CNC)C=CC1Cl
reactant | sodium chloride | [Cl-].[Na+]
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 18 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | N-(3,4-Dichloro-benzyl)-2-(2,2-dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-methyl-acetamide | 82% yield | ClC=1C=C(CN(C(C=C2OC(OC2=O)(C)C)=O)C)C=CC1Cl | C15H15Cl2NO4
